US05185339
A solution of 2-benzylpyridine (10.0 g, 0.059 moles) and hydrogen peroxide (33% w/v, 4.02 g, 12.2 ml, 0.118 moles) in glacial acetic acid (40 ml) was heated at 60° C. for 17 hours. The reaction mixture was cooled to room temperature, the acetic acid evaporated under reduced pressure and the residue dissolved in chloroform. After neutralisation with potassium carbonate (20 g) the chloroform was removed to give 2-benzylpyridine-N-oxide (10.86 g, 99%) as a viscous oil which crystallised on standing.

reactant | 2-benzylpyridine | 0.059 moles, 10.0 g | C(C1=CC=CC=C1)C1=NC=CC=C1 | C12H11N
reactant | hydrogen peroxide | 0.118 moles, 12.2 ml, 4.02 g | OO | H2O2
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
product | 2-benzylpyridine-N-oxide | 10.86 g, 99% | C(C1=CC=CC=C1)C1=[N+](C=CC=C1)[O-] | C12H11NO
